US06770638B2
Step 2: Preparation of 1-{2-[4-(3-Trifluoromethylphenyl)piperazin-1-yl]ethyl}-1,5,6,7-tetrahydroindol-4-one
Sodium hydride (60% in oil) (85 mg, 2.1 mmol, 1.8 eq.) was added to a 10 ml pear-shaped flask. The solid was rinsed twice with 2 mL hexane to remove oil, then 3 mL anhydrous N,N-dimethylformamide(DMF) was added. 1,5,6,7-Tetrahydroindol-4-one (186.7 mg, 1.38 mmol, 1.159 eq.) was added slowly, with stirring and hydrogen evolved. The walls of the flask were washed with an additional 1 mL of anhydrous DMF. 1-(2-Chloro-ethyl)-4-(3-trifluoromethyl-phenyl)-piperazine (349.00 mg, 1.19 mmol, 1.000 eq) was added as a solution in 2 mL DMF, and the mixture was stirred under nitrogen at 25 C for 8 hours. The resulting mixture was acidified with 1 N HCl to pH 6, and extracted with dichloromethane. The organic layer was washed four times with 25 mL water, dried over sodium sulfate and concentrated in vacuum to an oil which was purified by column chromatography using 5% methanol in dichloromethane as eluant resulting in the title compound as an oil. The oil was dissolved in 5 mL of 50% dichloromethane in hexanes. A solution of 4N HCl in dioxane (200 μL) was added and the mixture stirred for 30 minutes followed by vacuum filtration of the suspension. A white powder of the product HCl salt was recovered.

reactant | Sodium hydride | 2.1 mmol, 85 mg, 1.8 eq. | [H-].[Na+]
reactant | 1,5,6,7-Tetrahydroindol-4-one | 1.38 mmol, 186.7 mg, 1.159 eq. | N1C=CC=2C(CCCC12)=O | C8H9NO
reactant | hydrogen | [H][H] | H2
reactant | 1-(2-Chloro-ethyl)-4-(3-trifluoromethyl-phenyl)-piperazine | 1.19 mmol, 349.00 mg, 1.000 eq | ClCCN1CCN(CC1)C1=CC(=CC=C1)C(F)(F)F | C13H16ClF3N2
reactant | HCl | 1 N | Cl | ClH
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 1-{2-[4-(3-Trifluoromethylphenyl)piperazin-1-yl]ethyl}-1,5,6,7-tetrahydroindol-4-one | FC(C=1C=C(C=CC1)N1CCN(CC1)CCN1C=CC=2C(CCCC12)=O)(F)F | C21H24F3N3O
